US07947851B2
Step b) Formation of methyl 4-({{4-[(4-butylphenyl)ethynyl]benzyl}[2-(4-chlorophenyl)-ethyl]amino}methyl)benzoate
To a solution of {4-[(4-butylphenyl)ethynyl]benzyl}[2-(4-chlorophenyl)ethyl]amine (2.85 g, 7.1 mmol) and methyl 4-formylbenzoate (1.16 g, 7.1 mmol) in DCE (24 mL) was added at once sodium triacetoxyborohydride (2.25 g, 10.6 mmol) and the resulting reaction mixture was stirred 12 hrs at rt. The reaction mixture was poured into water and extracted with DCM. The combined organic layers were dried over MgSO4 and the solvents were removed under reduced pressure to give the crude product. Purification by chromatography on silicagel (EtOAc/c-hex (5/95)) gave 2.8 g (73%) of the title compound as a white solid. HPLC, Rt: 5.0 min (purity: 99.9%). 1H NMR (CDCl3) δ: 7.98 (d, J=8.3 Hz, 2H), 7.51-7.43. (m, 4H), 7.36 (d, J=8.3 Hz, 2H), 7.29-7.15 (m, 6H), 7.00 (d, J=8.3 Hz, 2H), 3.94 (s, 3H), 3.68 (s, 2H), 3.64 (s, 2H), 2.83-2.59 (m, 6H), 1.69-1.55 (m, 2H), 1.44-1.30 (m, 2H), 0.95 (J=7.2 Hz, 3H).

reactant | {4-[(4-butylphenyl)ethynyl]benzyl}[2-(4-chlorophenyl)ethyl]amine | 7.1 mmol, 2.85 g | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCCC2=CC=C(C=C2)Cl)C=C1 | C27H28ClN
reactant | methyl 4-formylbenzoate | 7.1 mmol, 1.16 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | sodium triacetoxyborohydride | 10.6 mmol, 2.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | DCE | 24 mL | ClCCCl | C2H4Cl2
product | methyl 4-({{4-[(4-butylphenyl)ethynyl]benzyl}[2-(4-chlorophenyl)-ethyl]amino}methyl)benzoate | 2.8 g, 73% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(CCC2=CC=C(C=C2)Cl)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C36H36ClNO2
